US04443443
To the solution of N-(3-bromopropyl)phthalimide (15.6 g) in acetone (150 ml) were added 1-phenylpiperazine (10.4 g) and potassium carbonate (12.0 g). The resulting mixture was refluxed with stirring for 4.5 hours. The reaction mixture was cooled and then filtered. The filter cake was washed with acetone. The filtrate and washing were combined and evaporated under reduced pressure. The residue was recrystallized from ethanol to give an oil of N-[3-(4-phenyl-1-piperazinyl)propyl]phthalimide (18.3 g), mp 129° to 134° C.

reactant | N-(3-bromopropyl)phthalimide | 15.6 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | 1-phenylpiperazine | 10.4 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | potassium carbonate | 12.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | N-[3-(4-phenyl-1-piperazinyl)propyl]phthalimide | 18.3 g | C1(=CC=CC=C1)N1CCN(CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C21H23N3O2
